US03983246
Hydroxylamine hydrochloride (41.7 g) in 70 ml of water was added to a solution of 36.1 g of 4-methylbenzaldehyde in 180 ml of absolute ethanol. A solution of 18 g of sodium hydroxide in 36 ml of water was added in portions during 5 to 10 minutes. The reaction mixture was then heated to boiling and filtered hot, and the filtrate was cooled in a dry ice-acetone bath. Water was added to the cooled filtrate until solid product precipitated. The solid was separated by filtration, air-dried overnight, and recrystallized from hexane to give 27.9 g of 4-methylbenzaldoxime, m.p. 73°-77°.

reactant | Hydroxylamine hydrochloride | 41.7 g | Cl.NO
reactant | 4-methylbenzaldehyde | 36.1 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | sodium hydroxide | 18 g | [OH-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | water | 36 ml | O | H2O
product | 4-methylbenzaldoxime | 27.9 g | CC1=CC=C(C=NO)C=C1 | C8H9NO
